US09402841B2
Step C: ethyl 7-chloro-1-oxo-1,2-dihydroisoquinoline-3-carboxylate
To a stirred mixture of NaH (1.81 g, 30.3 mmol) in DMF (20 mL) was added a solution of methyl 5-chloro-2-formylbenzoate (5.0 g, 25 mmol) and ethyl 2-isocyanoacetate (2.85 g, 25 mmol) in DMF (60 mL) at 40° C. over a 20 minute period. The reaction mixture was stirred at 20° C. for 2 hours. Its pH was adjusted to 7.0 with acetic acid (10%) and the mixture was extracted with DCM (3×200 mL). The organic layers were combined, washed with brine (200 mL), dried over Na2SO4, and concentrated. The crude product was purified by silica gel column chromatography eluting with petroleum ether and ethyl acetate (PE/EtOAc=15:1-5:1 gradient) to give the title compound (2.0 g, 31%). ESI-MS m/z [M+H]+252.1.

reactant | NaH | 30.3 mmol, 1.81 g | [H-].[Na+]
reactant | methyl 5-chloro-2-formylbenzoate | 25 mmol, 5.0 g | ClC=1C=CC(=C(C(=O)OC)C1)C=O | C9H7ClO3
reactant | ethyl 2-isocyanoacetate | 25 mmol, 2.85 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | ethyl 7-chloro-1-oxo-1,2-dihydroisoquinoline-3-carboxylate | 2.0 g, 31% | ClC1=CC=C2C=C(NC(C2=C1)=O)C(=O)OCC | C12H10ClNO3
